US08022223B2
Step D: Preparation of methyl 4-(5-bromo-2-(thiazolo[5,4-b]pyridin-2-ylamino)pyridin-3-ylthio)benzoate hydrochloride:
Added methyl 4-(2-amino-5-bromopyridin-3-ylthio)benzoate (1.00 g, 2.95 mmol) to a mixture of 2-chloro-3-isothiocyanatopyridine (0.503 g, 2.95 mmol) in DMF (4 mL). Stirred at 80° C. for an hour, then at 110° C. for 2 hours. Cooled, diluted with dichloromethane (8 mL), filtered, washed with dichloromethane, and dried to afford the title compound (0.625 g, 41.6% yield). 1H NMR (d6-DMSO) δ 3.84 (s, 3H), 7.40 (dd, 1H), 7.45 (d, 2H), 7.72 (d, 1H), 7.79 (bs, 1H), 7.96 (d, 2H), 8.34 (d, 1H), 8.56 (s, 1H).

reactant | methyl 4-(2-amino-5-bromopyridin-3-ylthio)benzoate | 2.95 mmol, 1.00 g | NC1=NC=C(C=C1SC1=CC=C(C(=O)OC)C=C1)Br | C13H11BrN2O2S
reactant | 2-chloro-3-isothiocyanatopyridine | 2.95 mmol, 0.503 g | ClC1=NC=CC=C1N=C=S | C6H3ClN2S
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | methyl 4-(5-bromo-2-(thiazolo[5,4-b]pyridin-2-ylamino)pyridin-3-ylthio)benzoate hydrochloride | 0.625 g, 41.6% yield | Cl.BrC=1C=C(C(=NC1)NC=1SC2=NC=CC=C2N1)SC1=CC=C(C(=O)OC)C=C1 | InChI=1S/C19H13BrN4O2S2.ClH/c1-26-18(25)11-4-6-13(7-5-11)27-15-9-12(20)10-22-16(15)24-19-23-14-3-2-8-21-17(14)28-19;/h2-10H,1H3,(H,22,23,24);1H
